US07625914B2
1.1 g (2.4 mmol) of methyl 2(S)-ethoxy-3-{4-[6-(3-heptyl-1-methylureido)pyrid-2-yl]phenyl}propanoate, 20 ml of tetrahydrofuran and 3.6 ml (3.6 mmol) of aqueous 1M lithium hydroxide solution are stirred at room temperature for 5 hours. After addition of water and ethyl acetate, the reaction medium is acidified to pH 5.5 with aqueous 1N acetic acid solution. The organic phase is washed with water, dried over magnesium sulfate, filtered and evaporated. 1 g (95%) of 2(S)-ethoxy-3-{4-[6-(3-heptyl-1-methylureido)pyrid-2-yl]phenyl}propanoic acid is obtained in the form of a viscous syrup.

reactant | methyl 2(S)-ethoxy-3-{4-[6-(3-heptyl-1-methylureido)pyrid-2-yl]phenyl}propanoate | 2.4 mmol, 1.1 g | C(C)O[C@H](C(=O)OC)CC1=CC=C(C=C1)C1=NC(=CC=C1)N(C(=O)NCCCCCCC)C | C26H37N3O4
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
reactant | lithium hydroxide | 1M | [OH-].[Li+]
reactant | water | O | H2O
solvent | acetic acid | 1N | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2(S)-ethoxy-3-{4-[6-(3-heptyl-1-methylureido)pyrid-2-yl]phenyl}propanoic acid | 1 g, 95% | C(C)O[C@H](C(=O)O)CC1=CC=C(C=C1)C1=NC(=CC=C1)N(C(=O)NCCCCCCC)C | C25H35N3O4
